US07119207B2
To a solution of 1.0 g (4.3 mmol) 2-bromo-3-methoxy-6-nitropyridine (J. Lombardino, J. Med. Chem. 1981, 24, 39–42) in 25 ml of toluene was added 1.9 ml (6.4 mmol) of tri-n-butyl-vinyltin and a catalytic amount of bis(triphenylphosphine-palladium(II) chloride, and the reaction was refluxed under a nitrogen atmosphere for 2 hours. The reaction mixture was cooled to room temperature and the solvent evaporated. The residue was chromatographed on silica using chloroform as the elutant. Appropriate fractions were combined to yield 0.63 g of 3-methoxy-6-nitro-2-vinyl-pyridine as an oil. TLC: Rf=0.5 (5:1 hexane/ethyl acetate). 1H NMR (CDCl3) δ 8.15 (d, 1H), 7.35 (d, 1H), 7.10 (m, 1H), 6.55 (d, 1H), 5.65 (d, 1H), 4.0 (s, 3H). Mass spectrum: m/e=181.1 (p+1).

reactant | 2-bromo-3-methoxy-6-nitropyridine | 4.3 mmol, 1.0 g | BrC1=NC(=CC=C1OC)[N+](=O)[O-] | C6H5BrN2O3
reactant | tri-n-butyl-vinyltin | 6.4 mmol, 1.9 ml | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | triphenylphosphine palladium(II) chloride | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd](Cl)Cl
product | 3-methoxy-6-nitro-2-vinyl-pyridine | 0.63 g | COC=1C(=NC(=CC1)[N+](=O)[O-])C=C | C8H8N2O3
